### PR TITLE
[Merged by Bors] - feat(Matrix/PosDef): decomposition into units

### PR DESCRIPTION
**Pull request by eric-wieser**
The main result here is `PosDef A ↔ ∃ B : Matrix n n 𝕜, IsUnit B ∧ A = Bᴴ * B`.
This is the last equation in the matrix cookbook, and follows on from #8809.

This also adds and cleans up a bunch of lemmas about `Matrix.PosSemidef.sqrt` in the process.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean [hunk 1]
```diff
@@ -254,13 +256,41 @@ lemma eq_of_sq_eq_sq {B : Matrix n n 𝕜} (hB : PosSemidef B) (hAB : A ^ 2 = B
...
 
 include hA in
-lemma eq_sqrt_of_sq_eq {B : Matrix n n 𝕜} (hB : PosSemidef B) (hAB : A ^ 2 = B) : A = hB.sqrt := by
-  subst B
-  rw [hA.sqrt_sq]
+lemma eq_sqrt_iff_sq_eq {B : Matrix n n 𝕜} (hB : PosSemidef B) : A = hB.sqrt ↔ A ^ 2 = B :=
+  ⟨fun h => h ▸ hB.sq_sqrt, fun h => by subst h; rw [hA.sqrt_sq]⟩
+
+include hA in
+lemma sqrt_eq_iff_eq_sq {B : Matrix n n 𝕜} (hB : PosSemidef B) : hA.sqrt = B ↔ A = B^2 := by
```
Comment (loefflerd) [inline Mathlib/LinearAlgebra/Matrix/PosDef.lean:271]:
```suggestion
lemma sqrt_eq_iff_eq_sq {B : Matrix n n 𝕜} (hB : PosSemidef B) : hA.sqrt = B ↔ A = B ^ 2 := by
```

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean [hunk 2]
```diff
@@ -497,6 +536,29 @@ theorem _root_.Matrix.posDef_inv_iff [DecidableEq n] {M : Matrix n n 𝕜} :
     letI := (Matrix.isUnit_nonsing_inv_iff.1 <| h.isUnit).invertible
     Matrix.inv_inv_of_invertible M ▸ h.inv, (·.inv)⟩
 
+lemma posDef_sqrt [DecidableEq n] {M : Matrix n n 𝕜} (hM : M.PosDef) :
+    PosDef hM.posSemidef.sqrt := by
+  unfold PosSemidef.sqrt
+  apply PosDef.mul_mul_conjTranspose_same
```
Comment (loefflerd) [inline Mathlib/LinearAlgebra/Matrix/PosDef.lean:542]:
```suggestion
  apply PosDef.mul_mul_conjTranspose_same
```

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean [hunk 3]
```diff
@@ -497,6 +536,29 @@ theorem _root_.Matrix.posDef_inv_iff [DecidableEq n] {M : Matrix n n 𝕜} :
...
+  · refine posDef_diagonal_iff.mpr fun i ↦ ?_
+    rw [Function.comp_apply, RCLike.pos_iff]
+    constructor
+    · simp only [RCLike.ofReal_re, Function.comp_apply, Real.sqrt_pos]
+      exact hM.eigenvalues_pos _
+    · simp only [RCLike.ofReal_im]
```
Comment (loefflerd) [inline Mathlib/LinearAlgebra/Matrix/PosDef.lean:548]:
```suggestion
  · exact posDef_diagonal_iff.mpr fun i ↦ by simpa using hM.eigenvalues_pos _
```

**Review by loefflerd — APPROVED** [review]
Looks good, thanks for doing this! I found a few minor golfs.

maintainer delegate

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean:542]: I think I was getting frustrated at unification here, and didn't clean up afterwards!
